US04997847
8(4-Fluorobenzenesulphonamido)octanoic Acid
8-Aminooctanoic acid (1.0 g, 0.006 mol) was treated with 4-fluorobenzenesulphonyl chloride (1.22 g, 0.006 mol) in the presence of sodium hydroxide (0.8 g, 0.019 mol) in 15 ml water, tetrabutylammonium hydroxide (4 drops, 40% solution) and dichloromethane and the resulting mixture was subjected to vigorous stirring for 3 hours. The organic layer was then separated and evaporated to dryness and the residue was recrystallised from 2-propanol-water to give the title compound (0.88 g, m.p. 97°-8° C.).

reactant | 8-Aminooctanoic acid | 0.006 mol, 1.0 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | 4-fluorobenzenesulphonyl chloride | 0.006 mol, 1.22 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium hydroxide | 0.019 mol, 0.8 g | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
catalyst | tetrabutylammonium hydroxide | 4 drops | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8(4-Fluorobenzenesulphonamido)octanoic Acid | 0.88 g | FC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCC(=O)O | C14H20FNO4S
